US05317016
To a solution of (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol p-toluenesulfonate (6.35 g: 12.27 mmole) in dimethylformamide (60 ml), potassium phthalimide (2.7 g) is added. The mixture is stirred at 70° C. for 4 hours. The reaction mixture is poured into ice water and extracted with ethyl acetate. The extract is successively washed with water and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography (toluene:ethyl acetate=2:1) to give (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxy-2-phthalimidomethylpyrrolidine (4.65 g). Yield: 77.5%. NMR δ(CDCl3) ppm: 2 to 2.3(m, 1H), 2.4 to 2.6(m, 1H), 2.95, 2.97(2×s, 3H), 3.43 to 4.2(m, 5H), 3.80(s, 3H), [5.01(s)+5.07, 4.96(ABq, 12.2 Hz), 2H], 5.13 to 5.3(m, 1H). IR ν (CHCl3) cm-1 : 1774, 1716, 1613.

reactant | (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol p-toluenesulfonate | 12.27 mmole, 6.35 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)OC)C | C22H27NO9S2
reactant | potassium phthalimide | 2.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxy-2-phthalimidomethylpyrrolidine | 4.65 g, Yield: 77.5% | COC1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OS(=O)(=O)C)CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C23H24N2O8S
